US07202244B2
5-Chloro-2-(2-dimethylamino-ethoxy)-phenylamine
To a suspension of 2-Amino-4-chloro-phenol (1.43 g, 10 mmoles, 1 eq) and potassium carbonate (6.9 g, 50 mmoles, 5 eq) in acetone (25 ml) was added in one portion (2-Chloro-ethyl)-dimethyl-amine hydrochloride (2.16 g, 15 mmoles, 1.5 eq). The reaction mixture was refluxed under Nitrogen for 6 hours at which time the suspension was filtered and the solid washed with acetone. The combined filtrate was concentrated under vacuum and purified by flash chromatography (EtOAc/MeOH/NEt3: 87/9/3) to afford a beige solid (1.6 g, yield=72%).

reactant | 2-Amino-4-chloro-phenol | 10 mmoles, 1.43 g, 1 eq | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | potassium carbonate | 50 mmoles, 6.9 g, 5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | (2-Chloro-ethyl)-dimethyl-amine hydrochloride | 15 mmoles, 2.16 g, 1.5 eq | Cl.ClCCN(C)C
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 5-Chloro-2-(2-dimethylamino-ethoxy)-phenylamine | 1.6 g, yield=72% | ClC=1C=CC(=C(C1)N)OCCN(C)C | C10H15ClN2O
